Q2b(2.2u) Astable Multivibrator
.include ua741.txt
x1 1 2 3 4 5 UA741
R1 0 1 1k
R2 1 5 2K
R 2 5 1k
C 0 2 2.2u
Vss 3 0 dc 12
Vdd 0 4 dc 12

.tran 0.001ms 10ms

.control
run

plot v(5) v(2)
.endc
.end
