Q9
*Passive Components
R 1 2 1k
C 2 0 1u

*Square wave of 100Hz and -5 to +5 range
vin 1 0 pulse(0 10 0 0 0 5ms 10ms )

*transient analysis
.tran 0.01ms 50ms

*control and run
.control
run

*plots
plot v(2) v(1)
*v(2) is output voltage and v(1) is input voltage

.endc
.end
