Q2
.include Diode_1N914.txt
R 2 0 1K
D 1 2 1N914
C 2 0 10u
*Sinusoidal signal of 10Vpp and 500Hz
vin 1 0 sin(0 5 500)
.tran 0.02ms 20ms
.control
run
plot v(2) v(1) i(vin)
.endc
.end
